US07304081B2
(1R)-1′-({1-[4-(4-Isobutyrylpiperazin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
Propanoyl chloride (5.0 μL, 0.000057 mol) was added to a solution of (1R)-1′-{[1-(4-piperazin-1-ylphenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (20.0 mg, 0.0000478 mol) and N,N-diisopropylethylamine (27 μL, 0.00016 mol) in methylene chloride (1.0 mL, 0.016 mol) and the mixture was stirred for 1 h. The solvent was removed and the crude product was purified by prep-HPLC. LC-MS: B 474.2 (M+H)+; C 488.2 (M+H)+; D 486.2 (M+H)+

reactant | Propanoyl chloride | 0.000057 mol, 5.0 μL | C(CC)(=O)Cl | C3H5ClO
reactant | (1R)-1′-{[1-(4-piperazin-1-ylphenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.0000478 mol, 20.0 mg | N1(CCNCC1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C25H27N3O3
reactant | N,N-diisopropylethylamine | 0.00016 mol, 27 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 0.016 mol, 1.0 mL | C(Cl)Cl | CH2Cl2
product | (1R)-1′-({1-[4-(4-Isobutyrylpiperazin-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | C(C(C)C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C29H33N3O4
